US04112111
6 g of 1-(5-chlorindolin-1yl)-2-methylisothiourea hydrochloride and 10 ml of aminoacetaldehyde diethyl acetal were heated to a bath temperature of 120° for 1 hour. The excess aminoacetaldehyde diethyl acetal was removed by evaporation in a vacuum and the evaporation residue was partitioned between ethyl acetate and 1N aqueous sodium hydroxide solution. The organic phase was dried over magnesium sulphate and was evaporated to dryness. The 1-(5-chloroindolin-1-yl)-3-(2,2-diethoxyethyl)guanidine obtained as the evaporation residue was crystallized as the naphthalene-1,5-disulphonate having a M.Pt. of 163° -165° (from ethanol/ether).

reactant | 1-(5-chlorindolin-1yl)-2-methylisothiourea hydrochloride | 6 g | Cl.ClC=1C=C2CCN(C2=CC1)NC(SC)=N
reactant | aminoacetaldehyde diethyl acetal | 10 ml | C(C)OC(CN)OCC | C6H15NO2
product | 1-(5-chloroindolin-1-yl)-3-(2,2-diethoxyethyl)guanidine | ClC=1C=C2CCN(C2=CC1)NC(=N)NCC(OCC)OCC | C15H23ClN4O2
